* LVS netlist generated with ICnet by 'egrvlsi07' on Wed Mar 27 2019 at 15:24:58

*
* Globals.
*
.global ground VDD

*
* Component pathname : $VLSI/Project/Mux21
*
.subckt Mux21  Y A B S

        M6 Y N$46 A ground nmos l=0.13u w=0.6u m=1
        M3 Y S A VDD pmos l=0.13u w=1.35u m=1
        M5 Y S B ground nmos l=0.13u w=0.6u m=1
        M4 Y N$46 B VDD pmos l=0.13u w=1.35u m=1
        M2 N$46 S VDD VDD pmos l=0.13u w=1.35u m=1
        M1 N$46 S ground ground nmos l=0.13u w=0.6u m=1
.ends Mux21

